US05599966
A3. (6-Bromo-1-hexyl)4-phenylbutanoate
From 6-bromo-1-hexanol and 4-phenylbutyric acid. Working up by means of distillation. Yield: 72%. Boiling point: 158° C. (0.01 mbar)

reactant | 6-bromo-1-hexanol | BrCCCCCCO | C6H13BrO
reactant | 4-phenylbutyric acid | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
product | (6-Bromo-1-hexyl)4-phenylbutanoate | Yield: 72% | BrCCCCCCOC(CCCC1=CC=CC=C1)=O | C16H23BrO2
